US08106208B2
To a mixture of piperidine-4-carboxamide (1.05 g, 8.2 mmol), 1-(diphenylmethyl)azetidin-3-one (see Bioorg. Med. Chem. Lett.; 13; 2003; 2191-2194, 1.94 g, 8.2 mmol), methanol (30 mL) and acetic acid (3 mL) was added (polystyrylmethyl)trimethylammonium cyanoborohydride (4.1 mmol/g, 1.9 g). The reaction mixture was heated for 5 min at 120° C. using microwave single node heating. The resin was filtered off and the solvent was removed by evaporation. There was obtained 2.85 g (99%) of 1-[1-(diphenylmethyl)azetidin-3-yl]piperidine-4-carboxamide. 1H NMR (500 MHz, CDCl3): 1.6-1.9 (m, 6H), 2.1-2.2 (m, 1H), 2.7-2.8 (d, 2H), 2.9-3.0 (m, 3H), 3.4 (t, 2H), 4.4 (s, 1H), 5.7-5.8 (b, 1H), 6.2 (b, 1H), 7.2 (t, 2H), 7.2-7.3 (t, 4H), 7.4 (d, 4H); LCMS: m/z 350 (M+1)+.

reactant | piperidine-4-carboxamide | 8.2 mmol, 1.05 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | 1-(diphenylmethyl)azetidin-3-one | 8.2 mmol, 1.94 g | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | methanol | 30 mL | CO | CH4O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 1-[1-(diphenylmethyl)azetidin-3-yl]piperidine-4-carboxamide | 2.85 g, 99% | C1(=CC=CC=C1)C(N1CC(C1)N1CCC(CC1)C(=O)N)C1=CC=CC=C1 | C22H27N3O
